US08258097B2
Pyrrolidine-1-carboxylic acid 2-benzyloxy-5-((S)-2-benzyloxycarbonylamino-2-methoxycarbonyl-ethyl)-phenyl ester (364 mg) was dissolved in methanol (15 ml) containing benzyl chloride (95 mg) and 5% palladium-carbon (50 mg). The mixture was stirred for 3 hours under an atmosphere of hydrogen gas. The catalyst was removed by filtration and washed with methanol. Evaporation of the filtrate gave a gum which was crystallised by trituration with ether. (S)-2-[4-Hydroxy-3-(pyrrolidine-1-carbonyloxy)-phenyl]-1-methoxycarbonyl-ethyl-ammonium chloride was obtained as a white solid, 212 mg; NMR (500 MHz, d6 DMSO) 1.82-1.92 (4H, m), 2.97 (1H, dd J 14, 7), 3.05 (1H, dd J 14, 6), 3.31 (2H, t J 7), 3.49 (2H, t J 7), 3.67 (3H, s), 4.19 (1H, t J ca 6), 6.85-6.88 (3H, m), 8.54 (3H, br s exch D2O), 9.54 (1H, s, exch D2O); HPLC/MS retention time 3.04 min, m/z 309 (MH+).

reactant | Pyrrolidine-1-carboxylic acid 2-benzyloxy-5-((S)-2-benzyloxycarbonylamino-2-methoxycarbonyl-ethyl)-phenyl ester | 364 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C[C@@H](C(=O)OC)NC(=O)OCC1=CC=CC=C1)OC(=O)N1CCCC1 | C30H32N2O7
reactant | benzyl chloride | 95 mg | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | methanol | 15 ml | CO | CH4O
catalyst | palladium-carbon | 50 mg | [C].[Pd]
product | (S)-2-[4-Hydroxy-3-(pyrrolidine-1-carbonyloxy)-phenyl]-1-methoxycarbonyl-ethyl-ammonium chloride | [Cl-].OC1=C(C=C(C=C1)C[C@@H](C(=O)OC)[NH3+])OC(=O)N1CCCC1 | InChI=1S/C15H20N2O5.ClH/c1-21-14(19)11(16)8-10-4-5-12(18)13(9-10)22-15(20)17-6-2-3-7-17;/h4-5,9,11,18H,2-3,6-8,16H2,1H3;1H/t11-;/m0./s1
